US05314815
Synthesis of 2-hydroxy-4'methoxyacetophenone
It is used in the synthesis of MOPMN, above, and was synthesized from 2-bromo-4'-methoxyacetophenone (Aldrich). The 2-bromo-4'-methoxyacetophenone was refluxed in 20% water and N-methyl-2-pyrrolidinone for 10 hours at 105° C. The product was extracted with ethylether, dried over MgSO4, the ether evaporated and the dry solid recrystallized before use. Melting point 98.5°-100.5° C. and the NMR corresponds to the product.

reactant | 2-bromo-4'-methoxyacetophenone | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
reactant | N-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 2-hydroxy-4'methoxyacetophenone | OCC(=O)C1=CC=C(C=C1)OC | C9H10O3
